US07893099B2
Step 5: (1S,2R,4S) and (1R,2S,4R)-4-Hydroxy-2-methoxy-cyclopentanecarbonitrile
A solution of (1S,2R,4S) and (1R,2S,4R)-4-(tert-butyl-diphenyl-silanyloxy)-2-methoxy-cyclopentanecarbonitrile (3.86 g, 10.17 mmol) in THF (20 ml) was added to a solution of TBAF (20.3 ml, 20.3 mmol, 1M solution in THF) and acetic acid (1.2 ml, 20.9 mmol) in THF (50 ml) at 0° C. After the addition was completed, the icebath was removed and the light brown solution was allowed to stir at room temperature for 3.5 h. The solution was then diluted with water and extracted 3 times with EtOAc. The combined organic layers were washed with a mixture of brine and saturated NaHCO3 solution, dried over Na2SO4 and evaporated. The remaining yellow oil was purified by silica gel chromatography (heptane/EtOAc 70:30-45:55) to obtain the title compound as yellow oil (1.29 g, 9 mmol, 90%). MS (EI): 200.3 (M+OAc)−.

reactant | (1R,2S,4R)-4-(tert-butyl-diphenyl-silanyloxy)-2-methoxy-cyclopentanecarbonitrile | 10.17 mmol, 3.86 g | C(C)(C)(C)[Si](O[C@H]1C[C@@H]([C@H](C1)C#N)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H29NO2Si
reactant | TBAF | 20.3 mmol, 1M, 20.3 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | acetic acid | 20.9 mmol, 1.2 ml | C(C)(=O)O | C2H4O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (1R,2S,4R)-4-Hydroxy-2-methoxy-cyclopentanecarbonitrile | 9 mmol, 1.29 g, 90% | O[C@H]1C[C@@H]([C@H](C1)C#N)OC | C7H11NO2
